US07378414B2
2-methyl-2-phenylpentanoic acid
A solution of 2-methyl-2-phenyl-pent-4-enoic acid benzyl ester (2.31 g, 8.24 mmol) in ethyl acetate (20 mL) was treated with 10% palladium on carbon (0.24 g, 10 weight percent) and stirred under a hydrogen balloon for 72 hours. The vessel was purged with nitrogen gas and the mixture was filtered through a pad of celite and the filtrate was concentrated in vacuo to give the title compound (1.58 g, 99%). 1H NMR (300 MHz, CDCl3): δ ppm 0.91 (m, 3 H) 1.23 (m, 2 H) 1.57 (m, 3 H) 1.96 (m, 2 H) 7.36 (m, 5 H). MS (DCI/NH3+) m/z 210 (M+NH4)30.

reactant | 2-methyl-2-phenyl-pent-4-enoic acid benzyl ester | 8.24 mmol, 2.31 g | C(C1=CC=CC=C1)OC(C(CC=C)(C1=CC=CC=C1)C)=O | C19H20O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.24 g | [Pd] | Pd
product | 2-methyl-2-phenylpentanoic acid | 1.58 g, 99% | CC(C(=O)O)(CCC)C1=CC=CC=C1 | C12H16O2
